US05000775
Ethyl 2-[(1,1-dimethylethyl)amino]-4-trifluoromethyl-5-oxazolecarboxylate
A reaction vessel was charged with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate and 7.0 g (60 mmol) of tert-butylurea. The reaction mixture was stirred and heated at 140°-150° C. for 19 hours under a calcium sulfate drying tube. With the mixture at room temperature, the mixture was slurried in methylene chloride and washed three times with water. The methylene chloride extract was dried over magnesium sulfate and then concentrated under reduced pressure to yield 8.8 g of a mustard-colored solid material. This solid material was dissolved in hot hexane and then filtered hot. The filtrate was cooled in a dry ice bath. The filtrate yielded 7.3 g of a beige solid product (m.p.=56°-59° C.) identified in Table I.

reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
reactant | tert-butylurea | 60 mmol, 7.0 g | C(C)(C)(C)NC(=O)N | C5H12N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[(1,1-dimethylethyl)amino]-4-trifluoromethyl-5-oxazolecarboxylate | 8.8 g | CC(C)(C)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C11H15F3N2O3
